US08278335B2
Step 6. 5-{[6-(2-Hydroxy-1-morpholin-4-ylethyl)pyridin-2-yl]amino}-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxylic acid
Ethyl 5-{[6-(2-hydroxy-1-morpholin-4-ylethyl)pyridin-2-yl]amino}-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxylate (68 mg, 0.126 mmol) was taken up in tert-butanol (1.3 mL) and methanol (1.3 mL) and aqueous 1.0 M potassium hydroxide (0.63 mL, 0.63 mmol) was added. The resulting slurry was stirred at 60° C. for 4.5 hrs (the slurry became a homogenous yellow solution soon after reaching 60° C.). The reaction was cooled to room temperature and neutralized with 0.63 mL 1M aqueous hydrochloric acid. A yellow precipitate then formed. The resulting slurry was concentrated under reduced pressure, suspended in methanol, and concentrated again to afford the title compound as a yellow solid. LRMS (APCI) calcd for C24H29N6O5S [M+H]+, 513.2; found 513.0.

reactant | Ethyl 5-{[6-(2-hydroxy-1-morpholin-4-ylethyl)pyridin-2-yl]amino}-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxylate | 0.126 mmol, 68 mg | OCC(N1CCOCC1)C1=CC=CC(=N1)NC1=C(N=C(S1)C=1C=NC(=CC1)N1CCOCC1)C(=O)OCC | C26H32N6O5S
reactant | methanol | 1.3 mL | CO | CH4O
reactant | potassium hydroxide | 0.63 mmol, 1.0 M, 0.63 mL | [OH-].[K+]
reactant | hydrochloric acid | 1M, 0.63 mL | Cl | ClH
solvent | tert-butanol | 1.3 mL | C(C)(C)(C)O | C4H10O
product | 5-{[6-(2-Hydroxy-1-morpholin-4-ylethyl)pyridin-2-yl]amino}-2-(6-morpholin-4-ylpyridin-3-yl)-1,3-thiazole-4-carboxylic acid | OCC(N1CCOCC1)C1=CC=CC(=N1)NC1=C(N=C(S1)C=1C=NC(=CC1)N1CCOCC1)C(=O)O | C24H28N6O5S
